US05185346
To a stirred mixture of 2 parts of intermediate 21, namely 3,4-dihydro-6-(1-hydroxyethyl)-2(1H)-quinolinone in 8.9parts of tetrahydrofuran were added 1.62 parts of thionyl chloride. Stirring at room temperature was continued overnight. The reaction mixture was evaporated and the residue was co-evaporated with methylbenzene, yielding 2.3 parts (93.4%) of 6-(1-chloroethyl)-3,4-dihydro-2(1H)-quinolinone hydrochloride (interm. 36).

reactant | 3,4-dihydro-6-(1-hydroxyethyl)-2(1H)-quinolinone | OC(C)C=1C=C2CCC(NC2=CC1)=O | C11H13NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(1-chloroethyl)-3,4-dihydro-2(1H)-quinolinone hydrochloride | 93.4% | Cl.ClC(C)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C11H12ClNO.ClH/c1-7(12)8-2-4-10-9(6-8)3-5-11(14)13-10;/h2,4,6-7H,3,5H2,1H3,(H,13,14);1H
